US06562978B1
1-Acetyl-N-(3-chlorophenyl)-N-[3-[4-(2-benzthiazolylthio)-1-piperidinyl]propyl]-4-piperidinecarboxamide Hydrochloride
To a solution of 1-tert-butoxycarbonyl-4-(2-benzothiazolylthio)piperidine (505 mg, 1.44 mmol) in dry dichloromethane (4 ml) was added trifluoroacetic acid (4 ml) and stirred at room temperature for 30 min. After the solvent was removed in vacuo, the residue was dissolved in methanol (4 ml) and evaporated. The residue was dissolved in dry acetonitrile (12 ml) followed by addition of 1-acetyl-N-(3-chlorophenyl)-N-(3-chloropropyl)-4-piperidinecarboxamide (400 mg, 1.12 mmol), potassium carbonate (0.77 g, 5.6 mmol), and potassium iodide (186 mg, 1.12 mmol). After stirred at 80° C. for 8 h, the mixture was diluted with ethyl acetate (60 ml), washed with brine (60 ml), dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by preparative HPLC eluting water-acetonitrile containing 0.1% TFA. To the TFA salt was added 5% aqueous solution of potassium carbonate, extracted with ethyl acetate (30 ml), washed with brine, dried over anhydrous magnesium sulfate, and evaporated. The residue dissolved in ethyl acetate (20 ml) was treated with 4N hydrogen chloride in ethyl acetate (0.72 ml). After the solvent was removed in vacuo, the residue was washed with ether and dried in vacuo to give the title compound (230 mg, 34%) as a white solid.

reactant | 1-tert-butoxycarbonyl-4-(2-benzothiazolylthio)piperidine | 1.44 mmol, 505 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1SC2=C(N1)C=CC=C2 | C17H22N2O2S2
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-acetyl-N-(3-chlorophenyl)-N-(3-chloropropyl)-4-piperidinecarboxamide | 1.12 mmol, 400 mg | C(C)(=O)N1CCC(CC1)C(=O)N(CCCCl)C1=CC(=CC=C1)Cl | C17H22Cl2N2O2
reactant | potassium carbonate | 5.6 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.12 mmol, 186 mg | [I-].[K+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-N-(3-chlorophenyl)-N-[3-[4-(2-benzthiazolylthio)-1-piperidinyl]propyl]-4-piperidinecarboxamide Hydrochloride | 230 mg, 34% | Cl.C(C)(=O)N1CCC(CC1)C(=O)N(CCCN1CCC(CC1)SC=1SC2=C(N1)C=CC=C2)C2=CC(=CC=C2)Cl | InChI=1S/C29H35ClN4O2S2.ClH/c1-21(35)33-18-10-22(11-19-33)28(36)34(24-7-4-6-23(30)20-24)15-5-14-32-16-12-25(13-17-32)37-29-31-26-8-2-3-9-27(26)38-29;/h2-4,6-9,20,22,25H,5,10-19H2,1H3;1H
